US09056858B2
A solution of sodium chlorite (368 mg, 3.26 mmol) and sodium dihydrogen phosphate monohydrate (449 mg, 3.26 mmol) in 5 mL of water is added dropwise to a solution of crude 1-(2-bromo-pyridin-4-yl)-cyclopropanecarbaldehyde (566 mg, 2.50 mmol) and 2-methyl-2-butene (1.73 mL, 16.3 mmol) in tert-butanol (12 mL), and the resulting reaction mixture is stirred at room temperature. After 18 hours, the mixture is concentrated in vacuo, acidified to pH 2 with 1M aqueous solution of HCl, diluted with brine (25 mL) and extracted with ethyl acetate (3×50 mL). The combined organic layers are dried over Na2SO4, filtered and concentrated to afford crude 1-(2-bromo-pyridin-4-yl)-cyclopropanecarboxylic acid, which is used without purification.

reactant | sodium chlorite | 3.26 mmol, 368 mg | Cl(=O)[O-].[Na+]
reactant | sodium dihydrogen phosphate monohydrate | 3.26 mmol, 449 mg | O.P(=O)(O)(O)[O-].[Na+]
reactant | 1-(2-bromo-pyridin-4-yl)-cyclopropanecarbaldehyde | 2.50 mmol, 566 mg | BrC1=NC=CC(=C1)C1(CC1)C=O | C9H8BrNO
reactant | 2-methyl-2-butene | 16.3 mmol, 1.73 mL | CC(C)=CC | C5H10
solvent | water | 5 mL | O | H2O
solvent | tert-butanol | 12 mL | C(C)(C)(C)O | C4H10O
product | 1-(2-bromo-pyridin-4-yl)-cyclopropanecarboxylic acid | BrC1=NC=CC(=C1)C1(CC1)C(=O)O | C9H8BrNO2
